US09079985B2
6-tert-Butyl-2-isobutyl-5-methoxy-4-phenylindan-1-one
A mixture of 31.9 g (90.3 mmol) of 4-bromo-6-tert-butyl-2-isobutyl-5-methoxyindan-1-one, 12.7 g (37.1 mmol) of NaBPh4, 0.223 g (0.993 mmol, 1.1 mol. %) of Pd(OAc)2, 0.464 g (1.49 mmol, 1.65 mol. %) of di-tert-butyl(2′-methyl-2-biphenylyl)phosphine, 20.0 g of Na2CO3, 300 ml of THF and 150 ml of water was refluxed for 10 h. Further on, 500 ml of water was added, and the product was extracted with 3×200 ml of dichloromethane. The combined organic extract was dried over K2CO3 and then evaporated to dryness. The product was isolated by flash-chromatography on silica gel 60 (40-63 um, eluent: hexanes-dichloromethane=2:1 and then 1:1, vol.). Yield 15.7 g (50%) of yellowish crystalline material.

reactant | 4-bromo-6-tert-butyl-2-isobutyl-5-methoxyindan-1-one | 90.3 mmol, 31.9 g | BrC1=C2CC(C(C2=CC(=C1OC)C(C)(C)C)=O)CC(C)C | C18H25BrO2
reactant | di-tert-butyl(2′-methyl-2-biphenylyl)phosphine | 1.49 mmol, 0.464 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C(C)(C)C | C21H29P
reactant | Na2CO3 | 20.0 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | THF | 300 ml | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.993 mmol, 0.223 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 500 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 6-tert-Butyl-2-isobutyl-5-methoxy-4-phenylindan-1-one | C(C)(C)(C)C1=C(C(=C2CC(C(C2=C1)=O)CC(C)C)C1=CC=CC=C1)OC | C24H30O2
